US07795267B2
N-[(4-Fluorophenyl)methyl]-tetrahydro-3-oxo-1,1-diphenyl-1H-oxazolo[3,4-a][1,4]diazepine-8(5H)-carboxamide
To hexahydro-1,1-diphenyl-1H-oxazolo[3,4-a][1,4]diazepin-3-one (60 mg, 0.2 mmol) were added tetrahydrofuran (5 mL) and 4-fluorobenzyl isocyanate (59 mg, 0.39 mmol), and the mixture was stirred at 50° C. for 2 hours. The reaction solution was concentrated under reduced pressure. Then, the residue was purified with silica gel column chromatography (hexane:ethyl acetate=6:1 to hexane:ethyl acetate=1:4) and powder was formed from diethyl ether to obtain the title compound (73 mg, yield 82%).

reactant | hexahydro-1,1-diphenyl-1H-oxazolo[3,4-a][1,4]diazepin-3-one | 0.2 mmol, 60 mg | C1(=CC=CC=C1)C1(OC(N2C1CNCCC2)=O)C2=CC=CC=C2 | C19H20N2O2
reactant | 4-fluorobenzyl isocyanate | 0.39 mmol, 59 mg | FC1=CC=C(CN=C=O)C=C1 | C8H6FNO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | N-[(4-Fluorophenyl)methyl]-tetrahydro-3-oxo-1,1-diphenyl-1H-oxazolo[3,4-a][1,4]diazepine-8(5H)-carboxamide | 73 mg, yield 82% | FC1=CC=C(C=C1)CNC(=O)N1CC2N(CCC1)C(OC2(C2=CC=CC=C2)C2=CC=CC=C2)=O | C27H26FN3O3
